* V1 Testbench for PPV Solver
.lib '/mnt/d/Desktop/Vault/03 Projects/Ganeshas projects/ppv guided clock generation adpll/vco/IHP-Open-PDK-0.3.0/ihp-sg13g2/libs.tech/xyce/models/cornerMOSlv.lib' mos_tt
.include 'v1_varactor_vco.cir'

* Robust Xyce Nonlinear Solver Options for Verilog-A Models
.OPTIONS NONLIN GMIN=1e-10 MAXSTEP=100 DELVMAX=0.1
.OPTIONS TIMEINT METHOD=7
.OPTIONS DEVICE TRANDELMIN=1e-15

V_SUPPLY VDD 0 DC 1.2
V_TUNE vtune 0 DC 0.6
V_SS VSS 0 DC 0

X_VCO out_p out_n vtune VDD VSS VCO_VARACTOR

.IC V(out_p)=1.2 V(out_n)=0

* Enforce strict maximum step size of 0.1ps
.TRAN 1p 10n 0 0.1p UIC
.PRINT TRAN v(out_p) v(out_n)
.END
